US08039450B2
To a solution of methyl 4-(4-bromo-3-formylphenoxy)-3-fluorobenzoate; (10 g, 28.3 mmol), KOAc (8.33 g, 84.9 mmol), bis(pinacolato)diboron (8.63 g, 34 mmol) in anhydrous 1,4-dioxane (120 mL) was added PdCl2(dppf)2 (578 mg; 2.5 mol % CAS #72287-26-4, Aldrich catalog #379670). The reaction mixture was degassed with N2, and then heated at 80° C. with magnetic stirring. The reaction was monitored with TLC and was completed overnight. The mixture was cooled to room temperature, filtered through Celite and washed with ethyl acetate and then evaporated. The residue was dissolved in minimum EtOAc and passed through a very short but big silica gel column eluted with a mixed solvent of hexane:EtOAc (3:1, v/v) to remove dark color giving light yellow oil. Chromatography on silica gel again (Hexane/EtOAc 7:3). The first portion is white solid, NMR indicated as bis(pinacolato)diboron (no aromatic signals). The product was collected and concentrated to afford methyl 3-fluoro-4-(3-formyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)benzoate as colorless oil (9.5 g, 84%).

reactant | methyl 4-(4-bromo-3-formylphenoxy)-3-fluorobenzoate | BrC1=C(C=C(OC2=C(C=C(C(=O)OC)C=C2)F)C=C1)C=O | C15H10BrFO4
reactant | KOAc | 84.9 mmol, 8.33 g | CC(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 34 mmol, 8.63 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | Hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | 1,4-dioxane | 120 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf)2 | 578 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | methyl 3-fluoro-4-(3-formyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)benzoate | 9.5 g, 84% | FC=1C=C(C(=O)OC)C=CC1OC1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C=O | C21H22BFO6
